2181-02-08 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2181-2-7**] 04:00 PM
 MULTI LUMEN - START [**2181-2-7**] 04:00 PM
 INVASIVE VENTILATION - START [**2181-2-7**] 04:14 PM
 INVASIVE VENTILATION - STOP [**2181-2-7**] 04:45 PM
 EKG - At [**2181-2-7**] 05:30 PM
 BLOOD CULTURED - At [**2181-2-7**] 09:30 PM
   blood times 1
 BLOOD CULTURED - At [**2181-2-7**] 10:00 PM
   blood times 2
 URINE CULTURE - At [**2181-2-7**] 10:00 PM
 FEVER - 101.2
F - [**2181-2-7**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2181-2-7**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-8**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.7
   HR: 128 (80 - 128) bpm
   BP: 124/66(83) {116/64(82) - 162/89(110)} mmHg
   RR: 35 (10 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 4 (4 - 11)mmHg
   Total In:
                                                                    690 mL
                                                                    500 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    570 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    720 mL
   Urine:
                                                                  1,550 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.38/34/81.[**Numeric Identifier 508**]/19/-3
   Ve: 14.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General: Alert, no acute distress, follows commands
   HEENT: Sclera anicteric, ETT in place, PERRLA
   Neck: RIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mildly TTP in RUQ, non-distended, hypoactive bowel
   sounds, no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, trace bilateral ue and le edema
   Labs / Radiology
   196 K/uL
   14.2 g/dL
   103 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   10 mg/dL
   107 mEq/L
   139 mEq/L
   39.8 %
   11.7 K/uL
        [image002.jpg]
                            [**2181-2-7**]  04:36 PM
                            [**2181-2-7**]  05:35 PM
                             [**2181-2-8**]  04:45 AM
   WBC
   9.0
   11.7
   Hct
   40.1
   39.8
   Plt
   199
   196
   Cr
   1.2
   1.1
   TCO2
   21
   Glucose
   105
   103
   Other labs: PT / PTT / INR:14.3/25.1/1.2, CK / CKMB /
   Troponin-T:1278//, ALT / AST:85/52, Alk Phos / T Bili:47/1.3,
   Differential-Neuts:85.9 %, Lymph:11.7 %, Mono:2.0 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   23M transfered from OSH for liver transplant evaluation in setting of
   tylenol overdose.
   # Tylenol overdose: Transaminases already trending down.  INR 1.1.  Per
   OSH records pt ingested 150 pills, and initial tylenol 8hrs out was
   364. Per tylenol nomogram, he is in the "probable hepatic toxicity"
   range.  Pt was started on NAC w/in 8 hours and 16 hour continuous
   infusion of 100 mg/kg/hr was started at 10:00 am.
   - continue NAC
   - trend transaminases and INR q 6 hrs
   - appreciate hepatology/transplant recs
   .
   # Benadryl Overdose: Diphenhydramine has anticholinergic properties and
   thus is treated accordly.  Pt ingested 150 of tylenol PM which
   translates to 25 mg X 150 = 3.75g. Per toxicology recs at [**Hospital1 609**], if QRS >
   100 or R in VR > 3mm start bicarb infusion for pH goal between 7.45 and
   7.55.
   - check CK to r/o rhabdo
   - serial EKGs
   .
   # Acute Hypoxemic Respiratory Failure: Pt intubated for airway
   protection at OSH secondary to possible aspiration.  On arrival to the
   MICU, was awake and was able to complete an SBT at 50% and then was
   extubated.  CXR shows a possible RML/LL infiltrate and possible
   retro-cardiac opacity, likley from aspiration event.
   - will treat aspiration PNA w/ clindamycin
   - sputum culture if available.
   .
   # Suicide attempt: Psychiatry consult.
   - 1:1 sitter
   .
   # FEN: IVF prn, replete electrolytes, regular diet once extubated
   .
   # Prophylaxis: pneumoboots
   .
   # Access: RIJ placed at OSH (Sterile per OSH Records)
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-2-7**] 04:00 PM
   Multi Lumen - [**2181-2-7**] 04:00 PM
   18 Gauge - [**2181-2-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-08 10:18:00 Physician Attending Progress Note
Chief Complaint: tylebol overdose, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2181-2-7**] 04:00 PM
 MULTI LUMEN - START [**2181-2-7**] 04:00 PM
 INVASIVE VENTILATION - START [**2181-2-7**] 04:14 PM
 INVASIVE VENTILATION - STOP [**2181-2-7**] 04:45 PM
 EKG - At [**2181-2-7**] 05:30 PM
 BLOOD CULTURED - At [**2181-2-7**] 09:30 PM
   blood times 1
 BLOOD CULTURED - At [**2181-2-7**] 10:00 PM
   blood times
 URINE CULTURE - At [**2181-2-7**] 10:00 PM
 FEVER - 101.2
F - [**2181-2-7**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2181-2-8**] 08:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2181-2-8**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 136 (80 - 136) bpm
   BP: 122/65(83) {116/64(82) - 162/89(110)} mmHg
   RR: 30 (10 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 4 (4 - 11)mmHg
   Total In:
                                                                    690 mL
                                                                  2,217 mL
   PO:
                                                                    120 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    570 mL
                                                                  1,917 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,640 mL
   Urine:
                                                                  1,550 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                    577 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.38/34/81.[**Numeric Identifier 508**]/19/-3
   Ve: 14.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Well nourished, flushed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: tachy RR
   Chest RLL rales
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   14.2 g/dL
   196 K/uL
   103 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   10 mg/dL
   107 mEq/L
   139 mEq/L
   39.8 %
   11.7 K/uL
        [image002.jpg]
                            [**2181-2-7**]  04:36 PM
                            [**2181-2-7**]  05:35 PM
                             [**2181-2-8**]  04:45 AM
   WBC
   9.0
   11.7
   Hct
   40.1
   39.8
   Plt
   199
   196
   Cr
   1.2
   1.1
   TCO2
   21
   Glucose
   105
   103
   Other labs: PT / PTT / INR:16.2/26.4/1.4, CK / CKMB / Troponin-T:822//,
   ALT / AST:70/42, Alk Phos / T Bili:49/1.6, Differential-Neuts:85.9 %,
   Lymph:11.7 %, Mono:2.0 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
   24 yr old with Tylenol overdose transferred for management of resp
   failure and potential impending
   1.       Tylenol overdose: currently with stable labs and got NAC very
   early so though he is in the probable toxicity range he is likely to do
   well.  DC NAC follow up serologies. [**Hospital1 7**] LFTS and inr/
   2.       Benedryl intoxication: anti cholingeric overdose. Normal QRS.
   CK trending down. Give IVF Repelete phos
   3.       Resp failure: tolerated extunation well
   4.       Aspiration: known aspiration, febrile. Cover with Clindamycin
   5.       Suidicality: psych consult in AM. 1:1 sitter.
   Remaining issues as per housestaff notes
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-2-7**] 04:00 PM
   Multi Lumen - [**2181-2-7**] 04:00 PM
   18 Gauge - [**2181-2-7**] 04:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   Communication:  with family and patient
   Code status: Full code
   Disposition :Transfer to floor Medicine with psych consult.
   Addendum
   I was informed by MICU team that pt had been receving high dose NAC 120
   mg/he x 20 hours when should have been reduced to 50 mg/hr. Hepatology
   and Toxicology consulted as outlined in DR [**Last Name (STitle) 4737**] note. No
   intervention beyond supportive care needed and no anticipated side
   effects/ The fever, tachycardia, and dysonea he has could be evolving
   asp PNA versus NAC tocicity however.
   On exam he is febrile 102 conversant NAD Tachy chest L rales no wheezes
   abd benign
   Plan
   D/C NAC
   ICU monitoring for tachycardia and dyspnea
   Cooling blanket for temps
   Serial exams q2 hrs for resp distress signs of early anaphylaxis
   Critical Care 35 min

2181-02-09 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2181-2-8**] 11:39 AM
 MULTI LUMEN - STOP [**2181-2-8**] 12:53 PM
 FEVER - 102.6
F - [**2181-2-8**] 06:00 PM
   - Psych consulted
   - Tm 102.6, cooling blanket was placed, no subsequent high fevers
   - Patient was anxious, tachycardic, ativan given but did not help
   - Tylenol level negative at 10pm
   - replaced K and Phos with 15 of K-Phos
   The patient reports continuing chest tightness while breathing that is
   improved over past days.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2181-2-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-2-8**] 08:00 PM
   Lorazepam (Ativan) - [**2181-2-9**] 03:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-9**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.9
C (100.3
   HR: 105 (105 - 145) bpm
   BP: 117/75(83) {115/65(77) - 149/80(95)} mmHg
   RR: 20 (20 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,942 mL
                                                                  1,075 mL
   PO:
                                                                    780 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,162 mL
                                                                    835 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    640 mL
   Urine:
                                                                  3,440 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,502 mL
                                                                    435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: Alert, no acute distress, follows commands
   HEENT: PERRLA, EOMI
   Neck: bandage from prior IJ line
   Lungs: Clear to auscultation bilaterally, right sided aegophony
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, BS+
   Ext: Warm, well perfused, 2+ pulses, no edema
   Labs / Radiology
   180 K/uL
   12.7 g/dL
   97 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   9 mg/dL
   106 mEq/L
   139 mEq/L
   35.4 %
   11.9 K/uL
        [image002.jpg] CXR: Underpenetrated, no change LLL
                            [**2181-2-7**]  04:36 PM
                            [**2181-2-7**]  05:35 PM
                             [**2181-2-8**]  04:45 AM
                             [**2181-2-8**]  10:58 AM
                             [**2181-2-8**]  09:43 PM
                             [**2181-2-9**]  03:03 AM
   WBC
   9.0
   11.7
   11.9
   Hct
   40.1
   39.8
   35.4
   Plt
   199
   196
   180
   Cr
   1.2
   1.1
   1.1
   1.2
   1.1
   TCO2
   21
   Glucose
   105
   103
   105
   102
   97
   Other labs: PT / PTT / INR:13.1/26.0/1.1, CK / CKMB / Troponin-T:430//,
   ALT / AST:48/25, Alk Phos / T Bili:54/1.5, Differential-Neuts:85.9 %,
   Lymph:11.7 %, Mono:2.0 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, LDH:230
   IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   23M transfered from OSH for liver transplant evaluation in setting of
   tylenol overdose.
   # Tylenol overdose: Transaminases continue to trend down, INR 1.1. Cr
   stable.
   - Transaminases Daily
   - appreciate hepatology/transplant recs
   .
   # Benadryl Overdose: CK  trending down from 1278 to 430
   - Trend CK
   .
   # PNA: In setting of known aspiration. PNA vs Pneumonitis. Empirically
   treating with Clindamycin.
   - cont treating aspiration PNA w/ clindamycin
   - sputum culture pending
   .
   # Suicide attempt: Mood currently stable with SI
   -          Psychiatry consulted: 1:1 sitter & Section 12 in chart
   -          Inpatient once medically cleared
   # Hct Drop: Repeat this afternoon, ddx includes blood loss and
   hemolysis.
   # FEN: IVF prn, replete electrolytes, regular diet once extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-09 11:33:00 Physician Attending Progress Note
Chief Complaint: tylenol od, aspiration PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2181-2-8**] 11:39 AM
 MULTI LUMEN - STOP [**2181-2-8**] 12:53 PM
 FEVER - 102.6
F - [**2181-2-8**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2181-2-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-2-8**] 08:00 PM
   Lorazepam (Ativan) - [**2181-2-9**] 03:23 AM
   Other medications:
   Clinda
   Ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2181-2-9**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.4
C (99.4
   HR: 102 (95 - 145) bpm
   BP: 109/71(80) {109/65(77) - 149/82(95)} mmHg
   RR: 27 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,942 mL
                                                                  1,315 mL
   PO:
                                                                    780 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,162 mL
                                                                  1,075 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    720 mL
   Urine:
                                                                  3,440 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,502 mL
                                                                    595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished,NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: tachy RR
   Chest RLL rales
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   12.7 g/dL
   180 K/uL
   97 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   9 mg/dL
   106 mEq/L
   139 mEq/L
   35.4 %
   11.9 K/uL
        [image002.jpg]
                            [**2181-2-7**]  04:36 PM
                            [**2181-2-7**]  05:35 PM
                             [**2181-2-8**]  04:45 AM
                             [**2181-2-8**]  10:58 AM
                             [**2181-2-8**]  09:43 PM
                             [**2181-2-9**]  03:03 AM
   WBC
   9.0
   11.7
   11.9
   Hct
   40.1
   39.8
   35.4
   Plt
   199
   196
   180
   Cr
   1.2
   1.1
   1.1
   1.2
   1.1
   TCO2
   21
   Glucose
   105
   103
   105
   102
   97
   Other labs: PT / PTT / INR:13.1/26.0/1.1, CK / CKMB / Troponin-T:430//,
   ALT / AST:48/25, Alk Phos / T Bili:54/1.5, Differential-Neuts:85.9 %,
   Lymph:11.7 %, Mono:2.0 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, LDH:230
   IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   CXR: underpenetrated but essentially unchanged
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 LIVER FUNCTION ABNORMALITIES
   1.       Tylenol OD: doing well, LFTS stable. Off NAC
 follow up with
   liver if ready to sign off.
   2.       Asp PNA: high fevers last night, on Po Clinda
   3.       Psych: 1:1 sitter
   Likely to medicine while on O2 and febrile then to psych
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-7**] 04:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: po diet
   Communication:  with pot and parents
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: